US06511974B1
3-Chloro-4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzamide
Concentrated sulfuric acid (70 ml) was added to 3-chloro-4-(5H,11H-pyrrolo-[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzonitrile (12.85 g). The mixture was stirred at 60° C. for 3 hours, followed by stirring at room temperature for 18 hours. The reaction mixture was poured over ice and neutralized at 0° C., with 30% ammonium hydroxide (184 ml). The resulting suspension was extracted with ethyl acetate. The aqueous mixture was filtered, and reextracted with ethyl acetate. The combined organic phase was dried over anhydrous sodium sulfate, and the solvent removed in vacuo. The residue was triturated with a mixture of diethyl ether (50-60 ml) and a small quantity of ethyl acetate. Filtration of the precipitate afforded the title compound as a crystalline solid (10.44 g), m.p. 211-212° C.; MS (EI), m/z: 365 (M)+.

reactant | 3-chloro-4-(5H,11H-pyrrolo-[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzonitrile | 12.85 g | ClC=1C=C(C#N)C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C20H14ClN3O
reactant | ammonium hydroxide | 184 ml | [OH-].[NH4+]
solvent | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Chloro-4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzamide | 10.44 g | ClC=1C=C(C(=O)N)C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C20H16ClN3O2
